US09359336B2
To the solution of tert-butyl (2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[b]thiophen-5-yl)carbamate (7.51 g, 20 mmol, 1 eq) in anhydrous dichloromethane (40 mL under nitrogen atmosphere at 0° C. was added dropwise trifluoroacetic acid (15.4 mL, 10 eq) and the reaction was stirred at 0° C. for 30 minutes followed by at room temperature for about two hours. The reaction was then slowly poured into an ice-cold saturated aqueous sodium bicarbonate solution with stirring and the white solid that appeared during the process was filtered, washed with water, to give a first batch of 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[b]thiophen-5-amine in the amount of 2.792 g. The pH of the filtrate was adjusted to 8 by addition of solid sodium bicarbonate with stirring and then extracted using chloroform (3×). All organic layers were combined, dried with anhydrous sodium sulfate, and concentrated down to give brown oil. After the oil was placed in vacuo for two hours, it was treated with EtOAc-Hex (1:9) and the mixture was stirred at room temperature for 30 minutes. A second batch of 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[b]thiophen-5-amine was isolated as a pale pink solid in the amount of 1.883 g upon filtration. The total amount of 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[b]thiophen-5-amine is 4.675 g with a yield of 85%.

reactant | tert-butyl (2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[b]thiophen-5-yl)carbamate | 20 mmol, 7.51 g, 1 eq | CC1(OB(OC1(C)C)C1=CC2=C(S1)C=CC(=C2)NC(OC(C)(C)C)=O)C | C19H26BNO4S
reactant | trifluoroacetic acid | 15.4 mL, 10 eq | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[b]thiophen-5-amine | CC1(OB(OC1(C)C)C1=CC2=C(S1)C=CC(=C2)N)C | C14H18BNO2S
